US05550125
2.3. Ethyl (±)-6-fluoro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate.
370 ml of ethanol are introduced into a 1 l reactor, with magnetic stirring, cooled to 0° C., and 3.5 g (0.146 mol) of sodium are introduced slowly, in small portions, followed by successive dropwise addition of 32.54 g (0.146 mol) of N-(5-fluoro-2-hydroxyphenyl)trifluoroacetamide and 28.18 g (0.146 mol) of 75% pure ethyl 4-bromo-2-butenoate, and the mixture is heated at 80° C. for 3 h.

reactant | sodium | 0.146 mol, 3.5 g | [Na] | Na
reactant | N-(5-fluoro-2-hydroxyphenyl)trifluoroacetamide | 0.146 mol, 32.54 g | FC=1C=CC(=C(C1)NC(C(F)(F)F)=O)O | C8H5F4NO2
reactant | ethyl 4-bromo-2-butenoate | 0.146 mol, 28.18 g | BrCC=CC(=O)OCC | C6H9BrO2
solvent | ethanol | 370 ml | C(C)O | C2H6O
product | Ethyl (±)-6-fluoro-3,4-dihydro-2H-1,4-benzoxazine-3-acetate | FC=1C=CC2=C(NC(CO2)CC(=O)OCC)C1 | C12H14FNO3
